US06790860B2
To a solution of (3RS,4RS)-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanylmethyl-pyrrolidin-3-yl]-methanol (200 mg, 0.345 mmol) in DMF (2 ml) was added 60% NaH (15.2 mg, 0.379 mmol) at 0° C. and stirred for 10 min. Benzyl bromide (45 μl, 0.379 mmol) was added and stirred for 30 min at 0° C. and for 1 h at room temperature. Water was added and the mixture was extracted with dichloromethane. The organic phase was dried, filtered and evaporated. Flash chromatography (hexane/EtOAc 4:1=>1:1) gave 140 mg (61%) of (3RS,4RS)-1-(naphthalene-2-sulfonyl)-3-benzyloxymethyl-4-tritylsulfanylmethyl-pyrrolidine as a colorless foam, MS: 692 (M+Na)+.

reactant | (3RS,4RS)-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanylmethyl-pyrrolidin-3-yl]-methanol | 0.345 mmol, 200 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC(C(C1)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C35H33NO3S2
reactant | NaH | 0.379 mmol, 15.2 mg | [H-].[Na+]
reactant | Benzyl bromide | 0.379 mmol, 45 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (3RS,4RS)-1-(naphthalene-2-sulfonyl)-3-benzyloxymethyl-4-tritylsulfanylmethyl-pyrrolidine | 140 mg, 61% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC(C(C1)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=CC=CC=C1 | C42H39NO3S2
